Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Enalapril / Codeine / Bacitracin
 
Attending: ___
 
Chief Complaint:
Left hip pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o female with a PMH of HTN, hyperlipidemia, and breast 
cancer who presented to the ED s/p mechanical fall to kitchen 
tile. Pt reports that she fell ___ evening on her left hip. 
She has had worsening hip pain after the fall. She slipped in 
the kitchen while wearing slippers. No LOC or presyncope 
symptoms. Landed on her left hip and banged her right elbow. 
Felt fine after the fall. Ran errands with husband on ___. 
___ AM woke up with severe pain in her left hip and could 
not walk. She came to ED for evaluation. No F/C. No N/V/D or 
abdominal pain. No cough or URI symptoms. No CP or SOB. No 
urinary or bowel complaints. Pt is a good historian and has felt 
quite good of late. No history of any fractures.  
.  
ED COURSE: Vitals upon presentation T 98.6, HR 66, BP 146/40, RR 
24, 94%RA. Initial films did not reveal a hip fracture. She was 
going to be discharged home when her pain worsened and she could 
not ambulate. She was given percocet, toradol, and valium for 
pain relief. She was admitted for observation and was noted to 
have an O2 sat of 82% on RA on a routine vital sign check. No 
CP, SOB, or respiratory distress. Improved to 92% with 2L NC. 
She then had a CTA to r/o PE which was negative but did reveal 
evidence of pulmonary disease, likely COPD, which her family 
verified. She was also given levofloxacin for a UTI. She was 
admitted to the medical floor for inability to ambulate and 
finding of hypoxia.  

 
Past Medical History:
Hypertension  
Hypercholesterolemia  
Breast cancer, s/p right mastectomy  
Retinal detachment  
Glaucoma  
Colonic polyps  
H Pylor gastritis (___)  
Anemia  
T2DM  
Cataract s/p surgery  
Former tobacco abuse, quit ___  
Lumbar spinal stenosis  
PVD on left  
RBBB  
Osteoporosis  
Basal cell carcinomas s/p removal  
Mitral regurgitation  
Colonic polyps  
h/o UGIB ___ to ulcer and gastritis, H.pylori positive, full 
treatment course completed  
NSTEMI in the setting of anemia and increased demand ___.  
Negative p-MIBI.  
E.coli urosepsis ___  
h/o multiple UTIs  

 
Social History:
___
Family History:
mother had colon cancer at ___
 
Physical Exam:
T: 98.3 BP: 154/60 P: 72 RR: 20 O2 sats: 97% 3L NC  
Gen: NAD, resting comfortably.  
HEENT: NC/AT, PERRLA, EOMI. MMM. OP clear.  
Neck: No masses  
CV: RRR, S1 and S2 with Grade II/VII systolic ejection murmur. 
No r/g.  
Pulm: Mild crackles at right base.  
Abd: NABS, soft, NTND, no guarding/rigidity/rebound.  
Back: no CVA tenderness.  
Ext: no CCE, 1+ symmetric pedal pulses.  
MSK: TTP lateral left thigh and hip, no ecchymosis. Good ROM of 
left hip joint with minimal pain. Straight leg raise negative 
B/L. Evidence of right elbow ecchymosis. Good ROM in right elbow 
joint.  
Neuro: A/O x 3.  
CN: Grossly intact  
Sensation: Intact  
Strength: ___ B/L  
Reflexes: Normal and symmetric  
 
Pertinent Results:
CXR: COPD and cardiomegaly with ? pulmonary hypertension. No  
acute pulmonary process detected.  
.  
Imaging:  
CT Pelvis: No fracture or malalignment.  Prominent degenerative 
changes at 
L4/5 and L5/S1. 
.
X-ray L hip: No acute fractures or dislocations are seen.  There 
is spurring of the superolateral aspects of both acetabuli, 
consistent with early degenerative changes.  Joint spaces are 
preserved.  Vascular calcifications are seen. There are 
extensive degenerative changes of the lower lumbar spine and of 
the left sacroiliac joint. 
.  
CTA:
1.  No pulmonary embolus. 
2.  Lingular nodule measuring 6 mm, slightly larger than that on 
___.  A six-month followup CT chest is recommended.  Other 
innumerable 
punctate nodules, largely unchange; many of these are calcified. 
  
3.  Mild dilatation of the ascending aorta, measuring 3.9 cm.  
The aorta has diffuse atherosclerotic plaques and 
calcifications. 
4.  Few borderline enlarged bilateral hilar lymph nodes. 
5.  Diffuse emphysema. 
6.  Small hiatal hernia. 
.  
Micro: U/A positive, urine cx (after antibiotics started - mixed 
macterial flora).
.
Labs on admission:

GLUCOSE-257* UREA N-30* CREAT-1.1 SODIUM-136 POTASSIUM-4.2 
CHLORIDE-98 TOTAL CO2-26 ANION GAP-16 CALCIUM-9.6 PHOSPHATE-3.1 
MAGNESIUM-2.2
.
U/A: BLOOD-SM NITRITE-NEG PROTEIN-30 GLUCOSE-TR KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-MOD
.
___ WBC-10.3 RBC-3.88* HGB-11.0* HCT-34.2* MCV-88 MCH-28.4 
MCHC-32.3 RDW-14.5 NEUTS-80.1* BANDS-0 LYMPHS-11.7* MONOS-4.8 
EOS-3.2 BASOS-0.2
HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL
 
Brief Hospital Course:
A/P: ___ y/o female with a PMH of HTN, hyperlipidemia, and breast 
cancer who presented to the ED s/p mechanical fall and was found 
to be hypoxic.   
.  
# s/p mechanical fall: In the emergency department the patient 
had a plain film done of her left hip as well as CT scan of the 
pelvis which showed no evidence of fracture. She did have some 
initial improvement in her hip pain with addition of Percocet 
and tramadol as needed, however still had some unsteadiness on 
her feet due to pain. The physical therapy team evaluated her 
and felt that she would be safest to go to a rehabilitation 
facility to rebuild her strength before going home. She 
continued to improve with each physical therapy session.
.
# Hypoxia: The patient was noted to have an O2 sat of <85% on RA 
on the ED and was started on 4L O2 NC. This was then weaned to 
2L. On room air she repeatedly had O2 sats between 85-88% and 
<88% upon ambulation on room air. Upon review of the records 
this appears to be a common occurrence upon hospitalization that 
she has been hypoxic and requiring oxygen. She however, has been 
completely asymptomatic related to this. She had a CTA which 
showed no evidence of PE, but did show evidence of diffuse 
emphysema which was in accordance with what was seen on prior 
CTA a year ago. As a result she was scheduled for follow-up in 
___ clinic with Dr. ___ at the end of ___. She 
remained asymptomatic throughout her hospital stay.
.  
# UTI: Pt was asymptomatic, however had a urinalysis revealing 
many WBCs in her urine upon arrival to the emergency department. 
She was initially treated with levofloxacin and then switched to 
ciprofloxacin for a total of a three day course. She would 
benefit from repeat U/A and culture after discharge given a 
history of frequent UTIs in the past and episode of urosepsis on 
past admission requiring ICU care.
.  
# Acute renal failure: Pt with a rise in creatinine from 1.0 to 
1.3 on day of discharge. Her HCTZ was held and she was 
encouraged to drink plenty of liquids. This level should be 
checked upon discharge and she may need IV hydration if unable 
to take enough po for likely prerenal etiology.
.
# HTN: She had good blood pressure control with SBPs in 
120s-140. She was continued on home amlodipine, metoprolol and 
valsartan. 
.  
# Type II DM: She was continued on her home dose of glipizide 
and monitored with Humalog sliding scale infrequently as needed. 
 

 
Medications on Admission:
Aspirin 81 mg PO daily  
DIOVAN 160 mg PO daily  
Desipramine 50 mg PO daily  
HYDROCHLOROTHIAZIDE 25 mg PO daily  
Iron 325 mg PO daily  
LIPITOR 80 mg PO daily  
LORAZEPAM 0.5 mg--1 tablet(s) daily; prn  
GLiPIZIDE 5 mg PO daily  
MULTIVITAMIN  
NEURONTIN 300 mg PO TID  
PROTONIX 40 mg PO daily  
TOPROL XL 100 mg PO daily  
Timoptic, Xalatan eye drops  
Fish Oil 2 capsules PO daily  
Norvasc 5 mg PO daily  
Fosamax 70 mg PO ___  
Calcium  
Vitamin D  

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Desipramine 50 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
6. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Glipizide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
9. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
11. Timolol Maleate 0.25 % Drops Sig: One (1) Drop Ophthalmic 
DAILY (Daily).  
12. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
13. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
14. Alendronate 70 mg Tablet Sig: One (1) Tablet PO QSUN (every 
___.  
15. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
16. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
18. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
19. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) 
injection Injection TID (3 times a day): if pt not ambulating .  

20. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for Pain.  
21. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed.  
22. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
23. Aluminum-Magnesium Hydroxide 225-200 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for heartburn.  
24. Tramadol 50 mg Tablet Sig: 0.5 Tablet PO Q6H (every 6 hours) 
as needed for hip pain.  
25. Toprol XL 100 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
1.) Mechanical fall and left hip contusion
2.) Hypoxia
3.) Urinary tract infection
Secondary:
4.) Hypertension

 
Discharge Condition:
afebrile, displaying normal heart rate and blood pressure, 
requiring 2L O2 to maintain resting sats >90% and ambulatory O2 
sats >87%, ambulating with assistance of a cane, and tolerating 
po.

 
Discharge Instructions:
You were admitted to the hospital after a fall for left hip pain 
and unsteadiness on your feet. You had a CT scan of your hip 
which showed no evidence of break or fracture and you most 
likely suffered a bad bruise. You were treated with Percocet to 
help with your pain and you were evaluated by the physical 
therapy team who felt that you would benefit from a short stay 
in a rehabilitation facility.
.
Also, while you were in the hospital you were found to have a 
low oxygen saturation in your blood. You had a CT scan of your 
chest which showed no blood clot in your lungs or lung mass, but 
did show evidence of emphysema. You have been scheduled to see a 
pulmonologist (lung specialist) for further evaluation and might 
be recommended to use home oxygen or take a medication to help 
protect your lungs.
.
If you experience worsening leg pain, fall, swelling, feel 
unsteady on your feet, difficulty breathing, chest pain, leg 
pain or swelling, upon discharge seek immediate medical 
attention.
 
Followup Instructions:
___